US04634716
Step B: N-[1-(S)-Carboethoxy-3-phenylpropyl]-L-alanyl-(S)-2-pyrrolidineacetic acid
To a solution of L-alanyl-(S)-2-pyrrolidineacetic acid (390 mg; 2.0 mmol) (from the hydrochloride neutralized with 2.5N NaOH) and ethyl 2-oxo-4-phenylbutyrate (1.00 g) in 5 ml of ethanol is added 1 g of ground 4A molecular sieves. The mixture is stirred for 30 minutes and sodium cyanoborohydride (310 mg) is added in portions over 2 hours. The mixture is stirred overnight, filtered, and the filtrate concentrated under reduced pressure to near dryness. The mixture is taken up in methylene chloride and washed with water. The methylene chloride layer is extracted with 5% aqueous potassium bicarbonate, the latter extract is acidified to pH 2 and extracted with methylene chloride. The organic extract is dried over sodium sulfate and concentrated to dryness under reduced pressure to give the desired product. The S,S,S and R,S,S diastereomers are separated using reverse phase HPLC.

reactant | L-alanyl-(S)-2-pyrrolidineacetic acid | 2.0 mmol, 390 mg | N[C@@H](C)C(=O)N1[C@@H](CCC1)CC(=O)O | C9H16N2O3
reactant | hydrochloride | Cl | ClH
reactant | NaOH | 2.5N | [OH-].[Na+]
reactant | ethyl 2-oxo-4-phenylbutyrate | 1.00 g | O=C(C(=O)OCC)CCC1=CC=CC=C1 | C12H14O3
reactant | sodium cyanoborohydride | 310 mg | C(#N)[BH3-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-[1-(S)-Carboethoxy-3-phenylpropyl]-L-alanyl-(S)-2-pyrrolidineacetic acid | C(=O)(OCC)[C@H](CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@@H](CCC1)CC(=O)O | C21H30N2O5
